### PR TITLE
feat: more lemmas for Tannaka duality for finite groups

### PR DESCRIPTION
**Pull request by ybenmeur**
Prove more of the lemmas needed to prove Tannaka duality for finite groups.

---

This is everything that doesn't depend on `eval_of_algHom` (#23065).

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RepresentationTheory/Tannaka.lean [hunk 1]
```diff
@@ -147,6 +147,56 @@ def algHomOfRightFDRepComp (η : Aut (forget k G)) : (G → k) →ₐ[k] (G →
...
+  comm := by
+    intro t
+    ext f
+    set φ_term := fun (X : FDRep k G) (f : G → k) v s ↦ (f s) • (X.ρ s⁻¹ v)
+    have := sum_map univ (mulRightEmbedding t⁻¹) (φ_term X (rightRegular t f) v)
+    simp [φ_term] at this
+    simp
+    rw [← this]
+    apply sum_congr rfl
+    exact fun _ _ ↦ rfl
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Tannaka.lean:188]:
```suggestion
    simpa [φ_term] using this
```
Non-terminal `simp`s (i.e. calls to `simp` which don't close the goal) are strongly discouraged in mathlib, because their behaviour can change over time with refactors and new simp lemmas being added to the code base, and fixing such proofs is a pain because the code gives no indication what `simp` used to do. The `simpa` variant finishes the job in one line so it's acceptable.

File: Mathlib/RepresentationTheory/Tannaka.lean [hunk 2]
```diff
@@ -147,6 +147,56 @@ def algHomOfRightFDRepComp (η : Aut (forget k G)) : (G → k) →ₐ[k] (G →
...
+
+lemma toRightFDRepComp_inj (η₁ η₂ : Aut (forget k G))
+    (h : η₁.hom.hom.app rightFDRep = η₂.hom.hom.app rightFDRep) : η₁ = η₂ := by
+  ext X v
+  have h1 := η₁.hom.hom.naturality (auxFDRepHom X v)
+  have h2 := η₂.hom.hom.naturality (auxFDRepHom X v)
+  rw [h, ← h2] at h1
+  apply_fun (Hom.hom · (single 1 1)) at h1
+  simp at h1
+  exact h1
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Tannaka.lean:198]:
```suggestion
  simpa using h1
```

File: Mathlib/RepresentationTheory/Tannaka.lean [hunk 3]
```diff
@@ -147,6 +147,56 @@ def algHomOfRightFDRepComp (η : Aut (forget k G)) : (G → k) →ₐ[k] (G →
   apply_fun (fun x ↦ (x.hom.app rightFDRep).hom (1 : G → k)) at this
   exact this
 
+variable [DecidableEq G]
+
+/-- Auxiliary map for the proof of `toRightFDRepComp_inj`. -/
+@[simps]
+def auxLinearMap {X : FDRep k G} (v : X) : (G → k) →ₗ[k] X where
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Tannaka.lean:154]:
```suggestion
def _root_.FDRep.sumSMulInv {X : FDRep k G} (v : X) : (G → k) →ₗ[k] X where
```
I'm definitely not a fan of `auxLinearMap`, I'm not even sure this declaration should be in the TannakaDuality namespace at all.

File: Mathlib/RepresentationTheory/Tannaka.lean [hunk 4]
```diff
@@ -147,6 +147,56 @@ def algHomOfRightFDRepComp (η : Aut (forget k G)) : (G → k) →ₐ[k] (G →
   apply_fun (fun x ↦ (x.hom.app rightFDRep).hom (1 : G → k)) at this
   exact this
 
+variable [DecidableEq G]
+
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Tannaka.lean:151]:
```suggestion
```
Not yet.

File: Mathlib/RepresentationTheory/Tannaka.lean [hunk 5]
```diff
@@ -147,6 +147,56 @@ def algHomOfRightFDRepComp (η : Aut (forget k G)) : (G → k) →ₐ[k] (G →
...
+def auxLinearMap {X : FDRep k G} (v : X) : (G → k) →ₗ[k] X where
+  toFun f := ∑ s : G, (f s) • (X.ρ s⁻¹ v)
+  map_add' _ _ := by
+    simp only [add_apply, add_smul]
+    exact sum_add_distrib
+  map_smul' _ _ := by
+    simp only [smul_apply, smul_eq_mul, RingHom.id_apply, smul_sum, smul_smul]
+
+@[simp]
+lemma auxLinearMap_single_id {X : FDRep k G} (v : X) :
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Tannaka.lean:163]:
```suggestion
lemma _root_.FDRep.sumSMulInv_single_id [DecidableEq G] {X : FDRep k G} (v : X) :
```
Rename, and add the decidability hypothesis when it's need in the theorem *statement*. To be honest you might be better off closing the TannakaDuality namespace completely and moving into the FDRep namespace for these?

File: Mathlib/RepresentationTheory/Tannaka.lean [hunk 6]
```diff
@@ -147,6 +147,56 @@ def algHomOfRightFDRepComp (η : Aut (forget k G)) : (G → k) →ₐ[k] (G →
   apply_fun (fun x ↦ (x.hom.app rightFDRep).hom (1 : G → k)) at this
   exact this
 
+variable [DecidableEq G]
+
+/-- Auxiliary map for the proof of `toRightFDRepComp_inj`. -/
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Tannaka.lean:152]:
```suggestion
/-- 
For `v : X`, the G-equivariant map `k[G] → X` sending 1 to `v`, as a `k`-linear map. 
Here `k[G]` is the right regular representation of `G`.
-/
```

File: Mathlib/RepresentationTheory/Tannaka.lean [hunk 7]
```diff
@@ -147,6 +147,56 @@ def algHomOfRightFDRepComp (η : Aut (forget k G)) : (G → k) →ₐ[k] (G →
...
+    _ = (single 1 1 : G → k) 1 • (X.ρ 1⁻¹) v := by
+      apply add_eq_right.mpr
+      apply sum_eq_zero
+      simp_all
+    _ = _ := by
+      simp
+
+/-- Auxiliary representation morphism for the proof of `toRightFDRepComp_inj`. -/
+@[simps]
+def auxFDRepHom (X : FDRep k G) (v : X) : rightFDRep ⟶ X where
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Tannaka.lean:177]:
```suggestion
/-- 
For `v : X` and `G` a finite group, the morphism from the right regular 
representation `k[G]` to `X` sending `1` to `v`.
-/
@[simps]
def _root_.FDRep.ofRightFDRep (X : FDRep k G) (v : X) : rightFDRep ⟶ X where
```

File: Mathlib/RepresentationTheory/Tannaka.lean [hunk 8]
```diff
@@ -147,6 +147,56 @@ def algHomOfRightFDRepComp (η : Aut (forget k G)) : (G → k) →ₐ[k] (G →
...
+    have := sum_map univ (mulRightEmbedding t⁻¹) (φ_term X (rightRegular t f) v)
+    simp [φ_term] at this
+    simp
+    rw [← this]
+    apply sum_congr rfl
+    exact fun _ _ ↦ rfl
+
+lemma toRightFDRepComp_inj (η₁ η₂ : Aut (forget k G))
+    (h : η₁.hom.hom.app rightFDRep = η₂.hom.hom.app rightFDRep) : η₁ = η₂ := by
+  ext X v
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Tannaka.lean:192]:
```suggestion
  classical
  ext X v
```
When decidable equality is not needed for a statement but only for a proof, use the `classical` tactic to supply it.

File: Mathlib/RepresentationTheory/Tannaka.lean [hunk 9]
```diff
@@ -147,6 +147,56 @@ def algHomOfRightFDRepComp (η : Aut (forget k G)) : (G → k) →ₐ[k] (G →
...
+  have h1 := η₁.hom.hom.naturality (auxFDRepHom X v)
+  have h2 := η₂.hom.hom.naturality (auxFDRepHom X v)
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Tannaka.lean:194]: change to `FDRep.ofRightFDRep`

**Review by kbuzzard — APPROVED** [review]
Thanks for this PR and thanks for pinging on the Zulip. With over 1400 open PRs the maintainers are rather rushed off their feet right now but this looks like interesting stuff.

**Comment by ybenmeur** [comment]
Thanks for the review. The reason for the definitions (starting from `rightFDRep`) being in `TannakaDuality` is that the multiplication on the right regular representation that we use here is not the usual one but the `Pi` one instead.
Because of type issues I don't really know if they can be applied conveniently to the usual regular representation that uses `G →₀ k`.
